US08012974B2
Racemic trans 2-(3-hydroxymethyl-cyclohexyl)-isoindole-1,3-dione (0.37 g, 1.427 mmol) was dissolved in DMF (7 mL) and cooled to 0° C. At that temperature, NaH (60%, 0.136 g, 3.424 mmol) was added, followed by iodomethane (0.54 mL, 8.676 mmol) about 10 minutes later. After another 10 minutes the ice bath was removed, and the reaction mixture was heated to 38° C. After 3 hours, another 6 equivalents of iodomethane were added and the reaction mixture was stirred at 38° C. overnight before being cooled, quenched by addition of saturated aqueous NH4Cl, and extracted times with Et2O. The organic layers were combined, dried (Na2SO4), filtered, and evaporated. The remaining orange oil was purified by SiO2 chromatography (24 g SiO2, hexanes/EtOAc 0 to 10% EtOAc) to give 0.21 g of racemic trans 2-(3-methoxymethyl-cyclohexyl)-isoindole-1,3-dione as white crystalline solid (54% yield).

reactant | Racemic trans 2-(3-hydroxymethyl-cyclohexyl)-isoindole-1,3-dione | 1.427 mmol, 0.37 g | OC[C@@H]1C[C@H](CCC1)N1C(C2=CC=CC=C2C1=O)=O | C15H17NO3
reactant | NaH | 3.424 mmol, 0.136 g | [H-].[Na+]
reactant | iodomethane | 8.676 mmol, 0.54 mL | IC | CH3I
reactant | iodomethane | 6 equivalents | IC | CH3I
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | racemic trans 2-(3-methoxymethyl-cyclohexyl)-isoindole-1,3-dione | 0.21 g, 54% yield | COC[C@@H]1C[C@H](CCC1)N1C(C2=CC=CC=C2C1=O)=O | C16H19NO3
